US07576238B2
To a stirred suspension of 7-methoxy-1,2,3,4-tetrahydronapthalen-2-ylamine (2.54 g; 14.3 mmol) in CH2Cl2 (20 mL) was added DIEA (3.4 mL) and the reaction mixture was cooled to 0° C. Acetyl chloride (1.22 mL; 17.1 mmol) was added dropwise at 0° C. and the reaction was allowed to warm to room temperature, then stirred for 18 h. The reaction mixture was diluted with CH2Cl2, washed with H2O, dried over Na2SO4, filtered and the solvent removed under reduced pressure to yield a crude solid. Purification by flash chromatography (SiO2) eluting with hexanes-EtOAc yielded N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-acetamide as a white solid.

reactant | 7-methoxy-1,2,3,4-tetrahydronapthalen-2-ylamine | 14.3 mmol, 2.54 g | COC1=CC=C2CCC(CC2=C1)N | C11H15NO
reactant | DIEA | 3.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Acetyl chloride | 17.1 mmol, 1.22 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-acetamide | COC1=CC=C2CCC(CC2=C1)NC(C)=O | C13H17NO2
